US06048864
(c) 2-Acetyl-5-methanesulfonamido-1,2,3,4-tetrahydroisoquinoline
To a solution of 5-methanesulfonamido-1,2,3,4-tetrahydroisoquinoline hydrochloride (2.87 g, 0.011 mol) in dichloromethane at 0° C. was added acetic anhydride (1.2 ml, 0.013 mol) and triethylamine (3.4 ml, 0.024 mol), and the reaction was stirred at room temperature for 16 hours. The reaction mixture was then partitioned between ethyl acetate and aqueous sodium bicarbonate solution and the aqueous phase extracted with further portions of ethyl acetate. The combined organic extracts were dried (MgSO4) and evaporated to afford an oil. This was dissolved in methanol (15 ml) and treated with aqueous sodium carbonate solution (7%, w/w, 15 ml) and the mixture stirred for 16 hours at room temperature, after which time the methanol was removed under reduced pressure, the pH was adjusted to pH 8 with 2N hydrochloric acid and the product was extracted with ethyl acetate (2×). The combined organic extracts were dried (MgSO4) and evaporated to give an oil which was purified on silica gel, eluting with dichloromethane:methanol (95:5, v/v) to give the title compound as an oil (2.0 g, 68%). Rf 0.20 (dichloromethane:methanol 95:5, v/v). MS m/z 269 (MH)+.

reactant | 5-methanesulfonamido-1,2,3,4-tetrahydroisoquinoline hydrochloride | 0.011 mol, 2.87 g | Cl.CS(=O)(=O)NC1=C2CCNCC2=CC=C1
reactant | acetic anhydride | 0.013 mol, 1.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.024 mol, 3.4 ml | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | 15 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 15 ml | CO | CH4O
product | 2-Acetyl-5-methanesulfonamido-1,2,3,4-tetrahydroisoquinoline | 2.0 g, 68% | C(C)(=O)N1CC2=CC=CC(=C2CC1)NS(=O)(=O)C | C12H16N2O3S
